US05965589
According to the same manner as that described in Example 1, (E)-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-naphthyl]acrolein was condensed with 2,4-thiazolidinedione to give 5-[3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-naphthyl]propenylidene]-2,4-thiazolidinedione (yield: 73%). This product was recrystallized from chloroform-methanol. Yellow prisms, mp: 267-268° C.

reactant | (E)-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-naphthyl]acrolein | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C2C=CC(=CC2=CC1)/C=C/C=O | C24H19NO3
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-naphthyl]propenylidene]-2,4-thiazolidinedione | yield: 73% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C2C=CC(=CC2=CC1)C=CC=C1C(NC(S1)=O)=O | C27H20N2O4S
